US08937071B2
To a solution of 2-(4-bromo-2-fluorophenyl)acetic acid (0.1 g, 0.429 mmol) in sulfurous dichloride (5 mL, 0.429 mmol) was added DMF (3.32 μL, 0.043 mmol). The resulting mixture was stirred at 60° C. After 2 h, TLC analysis (PE/EA=1/1) showed the starting material had disappeared. The solvent was removed in vacuo to give 2-(4-bromo-2-fluorophenyl)acetyl chloride (110 mg, 0.416 mmol, 97% yield). A solution of 2-(4-bromo-2-fluorophenyl)acetyl chloride (110 mg, 0.437 mmol) in THF (5 mL) was added to ammonium hydroxide (10 mL, 257 mmol). The resulting mixture was stirred at 0° C. After LCMS analysis showed the starting material had disappeared, the solvent was removed in vacuo. The residue was dissolved in EA (50 mL) and washed with H2O (10 mL) and brine (10 mL). The organic layer was dried and concentrated to give a white solid of 2-(4-bromo-2-fluorophenyl)acetamide (100 mg, 0.280 mmol, 63.9% yield), which was used into the next step without further purification: 1H NMR (400 MHz, CD3OD) δ 7.32-7.30 (m, 2H), 7.24 (t, J=8.2 Hz, 1H), 3.54 (s, 2H); ES-LCMS m/z 232.0 (M+H).

reactant | 2-(4-bromo-2-fluorophenyl)acetyl chloride | 0.437 mmol, 110 mg | BrC1=CC(=C(C=C1)CC(=O)Cl)F | C8H5BrClFO
reactant | ammonium hydroxide | 257 mmol, 10 mL | [OH-].[NH4+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(4-bromo-2-fluorophenyl)acetamide | 0.280 mmol, 100 mg, 63.9% yield | BrC1=CC(=C(C=C1)CC(=O)N)F | C8H7BrFNO
